US07531668B2
Production of 5-(benzyloxy)-N-(6-cyano-3-pyridinyl)-1H-indole-2-carboxamide
At 0° C., 2-chloro-1,3-dimethyl-imidazolinium chloride (1.0 g) was added to a chloroform (6.0 mL)/pyridine (6.0 mL) mixed solution of 5-amino-2-cyanopyridine (500 mg) and 5-hydroxyindole-2-carboxylic acid (1.1 g), and stirred for 3 hours, and further stirred overnight at room temperature. Aqueous sodium hydrogencarbonate solution was added to the reaction liquid to stop the reaction, and this was extracted with chloroform. The organic layer was washed with water and saturated saline water, and then dried with anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting crystal was washed with chloroform to obtain the entitled compound (1.4 g) as a pale red solid.

reactant | 2-chloro-1,3-dimethyl-imidazolinium chloride | 1.0 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-amino-2-cyanopyridine | 500 mg | NC=1C=CC(=NC1)C#N | C6H5N3
reactant | 5-hydroxyindole-2-carboxylic acid | 1.1 g | OC=1C=C2C=C(NC2=CC1)C(=O)O | C9H7NO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | pyridine | 6.0 mL | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 6.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-(benzyloxy)-N-(6-cyano-3-pyridinyl)-1H-indole-2-carboxamide | 1.4 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)NC=1C=NC(=CC1)C#N | C22H16N4O2
